US04971963
In 30 ml of ethanol was suspended 2.25 g of 2,5-dimercapto-1,3,4-thiadiazole, and 30 ml of 1N-sodium hydroxide solution was added to the suspension under ice-cooling and stirring. To the mixture was further added 2.33 g of 2-(chloromethyl)imidazoline hydrochloride, and the mixture was stirred at room temperature for 90 minutes and concentrated under reduced pressure. The concentrate was adjusted to pH 4.8 and washed with ethyl acetate. The aqueous layer was concentrated and subjected to a column chromatography on XAD-II (300 ml), being washed with water and eluted with 10% aqueous ethanol. The eluate was evaporated to dryness under reduced pressure. To the residue were added 50 ml of ethanol and 5 ml of conc hydrochloric acid, and the resultant was stirred. The precipitating crystals were collected by filtration and washed with ethanol to give 2.10 g of 2-(2-imidazolin-2-yl)methylthio-5-mercapto-1,3,4-thiadiazole hydrochloride as colorless crystals (mp 204°-209° C. decomp.).

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 2.25 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(chloromethyl)imidazoline hydrochloride | 2.33 g | Cl.ClCC=1NCCN1
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(2-imidazolin-2-yl)methylthio-5-mercapto-1,3,4-thiadiazole hydrochloride | 2.10 g | Cl.N1C(=NCC1)CSC=1SC(=NN1)S | InChI=1S/C6H8N4S3.ClH/c11-5-9-10-6(13-5)12-3-4-7-1-2-8-4;/h1-3H2,(H,7,8)(H,9,11);1H
